US07491720B2
(7) Synthesis of methyl 4-hydroxy-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridine-2-carboxylate
A mixture of 18 g of methyl 4-(benzyloxy)-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridine-2-carboxylate dissolved in 200 ml of methanol with 200 ml of tetrahydrofuran was charged with 1.8 g of 20% palladium hydroxide on carbon catalyst, and the mixture was stirred at room temperature for 2 hours under hydrogen atmosphere at 1 atm. The reaction mixture was filtered and concentrated to give crude title compound.

reactant | methyl 4-(benzyloxy)-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridine-2-carboxylate | 18 g | C(C1=CC=CC=C1)OC1=CC(=NC(=C1)NC1=NN(C=C1)COCC[Si](C)(C)C)C(=O)OC | C23H30N4O4Si
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 1.8 g | [OH-].[OH-].[Pd+2]
product | methyl 4-hydroxy-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridine-2-carboxylate | OC1=CC(=NC(=C1)NC1=NN(C=C1)COCC[Si](C)(C)C)C(=O)OC | C16H24N4O4Si
